*  ********************************************************************************************************************
*  COPYRIGHT: INFINEON Technologies AG
*  ********************************************************************************************************************
*  COMMENT:
*  - The models for Infineon Power MOSFET are evaluated with                                                          *
*  - SIMetrixTM-Spice simulator. The Infineon Power MOSFET models                                                     *
*    are tested, verified and provided in Spice simulation code.                                                      *
*  ********************************************************************************************************************
*  ********************************************************************************************************************
*   INFINEON Power Transistors                                                                                        *
*   Content:        SPICE Simulation Model Library                                                                    *
*   Device:         CoolSiC 1200V SiC Trench MOSFET G1                                                                *
*   Package:        TO263-7                                                                                 *
*   Model Types:    L3                                                                                                *
*   Technology:     1200V                                                                                             *
*   Date:           2020-01-20                                                                                        *
*   Version:        4.2                                                                                               *
*  ********************************************************************************************************************
*  ****************************************************************
*   Infineon  | Terminals   |  Usage suggestion                   *
*   Level     |             |                                     *
*   ------------------------------------------------------------- *
*   L3        | DRAIN,      |  Self-heating effects,              *
*             | GATE,       |  modeling of heat flow              *
*             | SOURCE,     |  including thermal models of        *
*             | SOURCESENSE |  TO package.                        *
*             | Tj, Tcase   |                                     *
*  ****************************************************************
*   Detailed Information:                                         *
*                                                                 *
*   The model files are available on the Infineon web page:       *
*   http://www.infineon.com                                       *
*                                                                 *
*   This library contains models of the following INFINEON        *
*   CoolSiC transistors:                                          *
*                                                                 *
*   G1 1200V                                                      *
*        IMBG120R030M1_L3  PG-TO263-7                             *
*        IMBG120R045M1_L3  PG-TO263-7                             *
*        IMBG120R060M1_L3  PG-TO263-7                             *
*        IMBG120R090M1_L3  PG-TO263-7                             *
*        IMBG120R140M1_L3  PG-TO263-7                             *
*        IMBG120R220M1_L3  PG-TO263-7                             *
*        IMBG120R350M1_L3  PG-TO263-7                             *
*                                                                 *
*  ********************************************************************************************************************
*  ********************************************************************************************************************
* DISCLAIMER
* 
* INFINEON’S MODEL TERMS OF USE
*
* BY DOWNLOADING AND/OR USING THIS INFINEON MODEL (“MODEL”), THE USER (INCLUDING YOU) AGREES TO BE BOUND BY THE TERMS
* MODEL BUT OF USE HERE STATED. IF USER DOES NOT AGREE TO ALL TERMS OF USE HERE STATED, USER SHALL NOT DOWNLOAD, USE
* OR COPY THE IMMEDIATELY DELETE IT (TO THE EXTENT THAT IT WAS DOWNLOADED ALREADY).
*
* 1.  SCOPE OF USE
* 1.1 Any use of this Model provided by Infineon Technologies AG is subject to these Terms of Use.
* 1.2 This Model, provided by Infineon, does not fully represent all of the specifications and operating
*     characteristics of the product to which this Model relates.
* 1.3 This Model only describes the characteristics of a typical product. In all cases, the current data sheet
*     information for a given product is the final design guideline and the only actual performance specification.
*     Although this Model can be a useful tool to evaluate the product performance, it cannot simulate the exact
*     product performance under all conditions and it is also not intended to replace bread-boarding for final
*     verification.
* 2.  IMPORTANT NOTICE
* 2.1 Infineon Technologies AG (“Infineon”) is not and cannot be aware of the specific application of the Infineon’s
*     Model by User. However, Model may from time to time be used by User in potentially harmful and/or
*     life-endangering applications such as traffic, logistic, medical, nuclear or military applications or in other
*     applications where failure of the Model may predictably cause damage to persons’ life or health or to property
*     (hereinafter "Critical Applications").
* 2.2 User acknowledges that Infineon has not specifically designed or qualified the Model for Critical Applications
*     that the Model may contain errors and bugs and that User is required to qualify the Model for Critical
*     Applications pursuant to the applicable local quality, safety and legal requirements before permitting or giving
*     access to any such use.
* 3.  CONFIDENTIAL INFORMATION
*     User shall treat ideas, concepts and information incorporated in the Model, the documentation and the content of
*     this Terms of Use (together hereinafter "Confidential Information") confidential, not disclose it to any third
*     party unless otherwise agreed in writing between User and Infineon, not use it for any other purposes than using
*     the Model for simulation and testing purposes only.
* 4.  WARRANTY
* 4.1 User acknowledges that the Model is provided by Infineon under this Terms of Use is provided free of charge and
*     "AS IS" without any warranty or liability of any kind and Infineon hereby expressly disclaims any warranties or
*     representations, whether express, implied, statutory or otherwise, including but not limited to warranties of
*     workmanship, merchantability, fitness for a particular purpose, defects in the Model, or non-infringement of
*     third parties intellectual property rights.
* 4.2 Infineon reserves the right to make corrections, deletions, modifications, enhancements, improvements and other
*     changes to the Model at any time or to move or discontinue any Model without notice.
* 5.  LIABILITY
* 5.1 Nothing in this Terms of Use shall limit or exclude Infineon's liability under mandatory liability laws, for
*     injuries to life, body or health, for fraudulent concealment of defects in the software, or in cases of
*     Infineon's intentional misconduct or gross negligence.
* 5.2 Without prejudice to Sections 5.1, in cases of Infineon's slight negligent breach of obligations that restrict
*     essential rights or duties arising from the nature of this Terms of Use in a way that there is a risk of
*     non-achievement of the purpose of this Terms of Use or of an obligation whose observance User regularly may
*     trust in and whereas compliance with only makes proper execution of this Terms of Use possible, Infineon's
*     liability shall be limited to the typically, foreseeable damage.
* 5.3 Without prejudice to Sections 8.1 and 8.2, Infineon's liability under this Agreement shall be excluded in all
*     other cases.
* 6.  EXPORT REGULATIONS
*     The User shall comply with all applicable national and international laws and regulations, in particular the
*     applicable export control regulations and sanction programs. The User also agrees not to export, re-export or
*     transfer any software or technology developed with or using information, software or technology offered by
*     Infineon, in violation of any applicable laws or regulations of the competent authorities. Further, the User
*     shall neither use any products, information, software and technology offered by Infineon in or in connection
*     with nuclear technology or weapons of mass destruction (nuclear, biological or chemical) and carriers thereof
*     nor supply military consignees.
* 7.  TERMINATION OF USE PERMIT
*     If the User violates these Terms of Use, such User’s permit to use this Model terminates automatically. In
*     addition, Infineon may terminate the User’s permit to use this Model at its discretion and at any time
*     regardless of any violation of these Terms of Use. In any of the foregoing events, the User is obliged to
*     immediately destroy any content that has been downloaded or printed from Infineon’s website.
* 8.  MISCELLANEOUS
* 8.1 These Terms of Use are subject to the laws of the Federal Republic of Germany with the exception of the United
*     Nations on Purchase Contracts on the International Sale of Goods dated April 11, 1980 (CISG). The exclusive
*     place of jurisdiction is Munich, Germany.
* 8.2 Should any provision in these Terms of Use be or become invalid, the validity of all other provisions or
*     agreements shall remain unaffected thereby.
* *********************************************************************************************************************
*     SUPPORT : support@infineon.com
* *********************************************************************************************************************
* *********************************************************************************************************************


.SUBCKT IMBG120R030M1H_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
X$M2 N4 N4 GATE DRAIN SOURCE SOURCESENSE N5 N6 TO263_7_11_HVM_1G75_1S500_100MHz
X$M3 TJ TCASE Z25 PARAMS: N9 = 30
X$M1 N6 N5 N4 N7 TJ Z28 PARAMS: N8 = 30
G1 0 TJ VALUE = {IF(TIME > 0,LIMIT(V(N7,0),-1E6,1E6),0)}
R2 TJ 0 1MEG
.ENDS
.SUBCKT IMBG120R045M1H_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
X$M2 N4 N4 GATE DRAIN SOURCE SOURCESENSE N5 N6 TO263_7_11_HVM_1G75_1S500_100MHz
X$M3 TJ TCASE Z25 PARAMS: N9 = 45
X$M1 N6 N5 N4 N7 TJ Z28 PARAMS: N8 = 45
G1 0 TJ VALUE = {IF(TIME > 0,LIMIT(V(N7,0),-1E6,1E6),0)}
R2 TJ 0 1MEG
.ENDS
.SUBCKT IMBG120R060M1H_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
X$M2 N4 N4 GATE DRAIN SOURCE SOURCESENSE N5 N6 TO263_7_11_HVM_1G75_1S500_100MHz
X$M3 TJ TCASE Z25 PARAMS: N9 = 60
X$M1 N6 N5 N4 N7 TJ Z28 PARAMS: N8 = 60
G1 0 TJ VALUE = {IF(TIME > 0,LIMIT(V(N7,0),-1E6,1E6),0)}
R2 TJ 0 1MEG
.ENDS
.SUBCKT IMBG120R090M1H_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
X$M2 N4 N4 GATE DRAIN SOURCE SOURCESENSE N5 N6 TO263_7_11_HVM_1G75_1S500_100MHz
X$M3 TJ TCASE Z25 PARAMS: N9 = 90
X$M1 N6 N5 N4 N7 TJ Z28 PARAMS: N8 = 90
G1 0 TJ VALUE = {IF(TIME > 0,LIMIT(V(N7,0),-1E6,1E6),0)}
R2 TJ 0 1MEG
.ENDS
.SUBCKT IMBG120R140M1H_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
X$M2 N4 N4 GATE DRAIN SOURCE SOURCESENSE N5 N6 TO263_7_11_HVM_1G75_1S500_100MHz
X$M3 TJ TCASE Z25 PARAMS: N9 = 140
X$M1 N6 N5 N4 N7 TJ Z28 PARAMS: N8 = 140
G1 0 TJ VALUE = {IF(TIME > 0,LIMIT(V(N7,0),-1E6,1E6),0)}
R2 TJ 0 1MEG
.ENDS
.SUBCKT IMBG120R220M1H_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
X$M2 N4 N4 GATE DRAIN SOURCE SOURCESENSE N5 N6 TO263_7_11_HVM_1G75_1S500_100MHz
X$M3 TJ TCASE Z25 PARAMS: N9 = 220
X$M1 N6 N5 N4 N7 TJ Z28 PARAMS: N8 = 220
G1 0 TJ VALUE = {IF(TIME > 0,LIMIT(V(N7,0),-1E6,1E6),0)}
R2 TJ 0 1MEG
.ENDS
.SUBCKT IMBG120R350M1H_L3 DRAIN GATE SOURCE SOURCESENSE TJ TCASE
X$M2 N4 N4 GATE DRAIN SOURCE SOURCESENSE N5 N6 TO263_7_11_HVM_1G75_1S500_100MHz
X$M3 TJ TCASE Z25 PARAMS: N9 = 350
X$M1 N6 N5 N4 N7 TJ Z28 PARAMS: N8 = 350
G1 0 TJ VALUE = {IF(TIME > 0,LIMIT(V(N7,0),-1E6,1E6),0)}
R2 TJ 0 1MEG
.ENDS

.SUBCKT Z25 TJ TCASE PARAMS: N9 = 100
.PARAM N10 = {30.07/N9}
R3 TJ N11 {1.595E-01/N10}
R4 N11 N12 {2.165E-01/N10}
R5 N12 N13 {1.315E-01/N10}
R6 N13 TCASE {3.200E-03/N10}
C1 TJ 0 {3.384E-03*N10}
C2 N11 0 {8.522E-03*N10}
C3 N12 0 {8.060E-02*N10}
C4 N13 0 {1.561E+02*N10}
.ENDS
.SUBCKT TO263_7_11_HVM_1G75_1S500_100MHz 1 2 3 4 5 6 7 8
XZhalf1 1 2 3 4 9 10 11 12 TO263_7_11_HVM_1G75_1S500_100MHz_half
XY1 9 10 11 12 TO263_7_11_HVM_1G75_1S500_100MHz_parlel
XZhalf2 9 10 11 12 5 6 7 8 TO263_7_11_HVM_1G75_1S500_100MHz_half
.SUBCKT TO263_7_11_HVM_1G75_1S500_100MHz_half 1 2 3 4 5 6 7 8
V1 1 9 dc 0.0
V2 2 10 dc 0.0
V3 3 11 dc 0.0
V4 4 12 dc 0.0
R1 9 13 3.6045962287e-05
R2 10 14 0.064025381375
R3 11 15 0.00842364754084
R4 12 16 0.00316239821638
F1_2 13 9 V2 -17.3627
F1_3 13 9 V3 -10.2584
F1_4 13 9 V4 -18.8504
F2_1 14 10 V1 -0.00977508
F2_3 14 10 V3 0.00695291
F2_4 14 10 V4 0.0661503
F3_1 15 11 V1 -0.0438973
F3_2 15 11 V2 0.0528468
F3_4 15 11 V4 0.0597506
F4_1 16 12 V1 -0.0115727
F4_2 16 12 V2 0.0721346
F4_3 16 12 V3 0.00857238
L1 13 5 8.46828852031e-11
L2 14 6 3.76806313354e-11
L3 15 7 1.71271273645e-11
L4 16 8 3.30826235095e-09
K1_2 L1 L2 0.056418
K1_3 L1 L3 0.01122
K1_4 L1 L4 0.0631536
K2_3 L2 L3 0.03133
K2_4 L2 L4 0.287057
K3_4 L3 L4 0.255392
.ENDS TO263_7_11_HVM_1G75_1S500_100MHz_half
.SUBCKT TO263_7_11_HVM_1G75_1S500_100MHz_parlel 1 2 3 4
C1_0 1 0 3.12275e-13
C1_2 1 2 3.281062e-13
C1_3 1 3 1.122796e-12
C1_4 1 4 2.436658e-13
C2_0 2 0 6.827946e-14
C2_3 2 3 7.051034e-14
C2_4 2 4 3.883722e-13
C3_0 3 0 1.7097006e-13
C3_4 3 4 4.306726e-13
C4_0 4 0 3.29534e-14
.ENDS TO263_7_11_HVM_1G75_1S500_100MHz_parlel
.ENDS TO263_7_11_HVM_1G75_1S500_100MHz 

.SUBCKT Z28 N6 N5 N4 N7 TJ PARAMS: N8= 100
.PARAM N30 = {(30.07/N8) - 0.0105}
.PARAM N31 = {3.07/N30}
.PARAM N32 = {0.85}
.PARAM N33 = {1.42}
.PARAM N34 = {0.0}
.PARAM N35 = {0.71 * N30}
.PARAM N36 = {1.94 * N30}
.PARAM N37 = {1.45 * N30}
.PARAM N38 = {1.05 * N30 + 0.09}
.PARAM N39 = {1.2 * N30}
X$M5 N40 N41 Z31 PARAMS: N42 = {N35} N43 = {N36}
R11 N40 N41 10G
R12 N6 N41 10m
X$M6 N44 N45 Z29 PARAMS: N46 = {N38} N47 = {N39}
R13 N44 N45 10G
R14 N6 N44 10m
X$M7 N40 N48 Z30 PARAMS: N49 = {N37}
R15 N40 N48 10G
R16 N48 N45 10m
R17 N5 N40 {N31}
X$M1 N6 N40 N45 TJ Z32 PARAMS: N50 = {N32} N51 = {N33} N52 = {N34} N53 = {N30}
X$M8 N45 N6 N40 TJ Z33 PARAMS: N54 = {N30}
V5 N45 N4 DC=0
G2 0 N7 VALUE = {LIMIT( I(V5)*(V(N6,N4)) ,-100K,100K) }
R18 0 N7 1
.ENDS
.SUBCKT Z29 N55 N56 PARAMS: N46 = 100 N47 = 100
.PARAM N57 = {9.2699e-11* N46}
+ N58 = {2.7221E-10 * N46}
+ N59 = {0.13319 * N46}
+ N60 = {4.3119E-10 * N46}
+ N61 = {7.911E-10 * N46 * N47}
+ N62 = {-0.0060469}
+ N63 = {-3.9065}
+ N64 = {-0.052826}
+ N65 = {-0.31977}
+ N66 = {10.0648}
+ N67 = {5.1466}
+ N68 = {3.1552}
+ N69 = {-2.4004E-16}
.PARAM N70 = {N58 * EXP(N62 * N66)}
.PARAM N71 = {N58 / (N62 * N70)}
.PARAM N72 = {N59 * EXP(N63 * N67)}
.PARAM N73 = {N59 / (N63 * N72)}
.PARAM N74 = {N60 * EXP(N64 * N68)}
.PARAM N75 = {N60 / (N64 * N74)}
.PARAM N76 = {N61 * EXP(N65 * N69)}
.PARAM N77 = {N61 / (N65 * N76)}
C5 N55 N56 {N57}
E2 N55 N78 VALUE {IF(V(N55,N56) > N66, V(N55,N56) - (N71*(EXP(N62*V(N55,N56)) - EXP(N62*N66)) + N66) ,0)}
C6 N78 N56 {N70}
E3 N55 N79 VALUE {IF(V(N55,N56) > N67, V(N55,N56) - (N73*(EXP(N63*V(N55,N56)) - EXP(N63*N67)) + N67) ,0)}
C7 N79 N56 {N72}
E4 N55 N80 VALUE {IF(V(N55,N56) > N68, V(N55,N56) - (N75*(EXP(N64*V(N55,N56)) - EXP(N64*N68)) + N68) ,0)}
C8 N80 N56 {N74}
E5 N55 N81 VALUE {IF(V(N55,N56) > 0, V(N55,N56) - (EXP(N65*V(N55,N56))-1)/N65 ,0)}
C9 N81 N56 {N61}
.ENDS
.SUBCKT Z30 N82 N56 PARAMS: N49 = 100
C10 N82 N56 {1827E-12 * N49}
.ENDS
.SUBCKT Z31 N82 N55 PARAMS: N42 = 100 N43 = 100
.PARAM N83 = {1.5229e-11 * N42}
+ N84 = {4.9655E-06 * N42}
+ N85 = {4.4326E-11 * N42}
+ N86 = {4.5691E-05 * N42}
+ N87 = {2.7504E-11 * N42}
+ N88 = {2.5361E-10 * N42 * N43}
+ N89 = {-2.6836}
+ N90 = {-0.065837}
+ N91 = {-2.5938}
+ N92 = {-0.0070899}
+ N93 = {-0.48173}
+ N94 = {4.0892}
+ N95 = {9.3217}
+ N96 = {5.0346}
+ N97 = {9.3471}
+ N98 = {0.0}
.PARAM N70 = {N84 * EXP(N89 * N94)}
.PARAM N71 = {N84 / (N89 * N70)}
.PARAM N72 = {N85 * EXP(N90 * N95)}
.PARAM N73 = {N85 / (N90 * N72)}
.PARAM N74 = {N86 * EXP(N91 * N96)}
.PARAM N75 = {N86 / (N91 * N74)}
.PARAM N76 = {N87 * EXP(N92 * N97)}
.PARAM N77 = {N87 / (N92 * N76)}
C5 N55 N82 {N83}
E2 N55 N78 VALUE {IF(V(N55,N82) > N94, V(N55,N82) - (N71*(EXP(N89*V(N55,N82)) - EXP(N89*N94)) + N94) ,0)}
C6 N78 N82 {N70}
E3 N55 N79 VALUE {IF(V(N55,N82) > N95, V(N55,N82) - (N73*(EXP(N90*V(N55,N82)) - EXP(N90*N95)) + N95) ,0)}
C7 N79 N82 {N72}
E4 N55 N80 VALUE {IF(V(N55,N82) > N96, V(N55,N82) - (N75*(EXP(N91*V(N55,N82)) - EXP(N91*N96)) + N96) ,0)}
C8 N80 N82 {N74}
E5 N55 N81 VALUE {IF(V(N55,N82) > N97, V(N55,N82) - (N77*(EXP(N92*V(N55,N82)) - EXP(N92*N97)) + N97) ,0)}
C9 N81 N82 {N76}
E6 N55 N99 VALUE {IF(V(N55,N82) > 0, V(N55,N82) - (EXP(N93*V(N55,N82))-1)/N93 ,0)}
C11 N99 N82 {N88}
.ENDS
.SUBCKT Z32 N6 N5 N4 TJ PARAMS: N50 = 100 N51 = 100 N52 = 100 N53 = 100
.FUNC N100(N101,N102,N103) = {N104(N101,N102,N103)*((TANH((N102/(N104(N101,N102,N103)*N105(N101,N102,N103)))**(1/N106(N101,N103))))**N106(N101,N103))}
.FUNC N107(N102) = {N108*N102}
.PARAM N108 = {0.00155}
.FUNC N109(N101,N102,N103) = {N103 - (N110(N101) + N52 + N111 - N107(N102))}
.PARAM N111 = {0}
.FUNC N112(N101,N102,N103) = {(N109(N101,N102,N103) + LN(2*COSH(N109(N101,N102,N103))))/2 + 0.0001}
.FUNC N113(N101) = {N50 * N114 + N115 * (N101-25)}
.PARAM N114 = {1}
+ N115 = {-8E-4}
.FUNC N105(N101,N102,N103) = { (N113(N101)*(N116(N101) + 1/((N112(N101,N102,N103))**N117(N101)))) - 4E-3}
.FUNC N110(N101) = {N118 + N119*N101}
.PARAM N118 = {4.4}
+ N119 = {-0.0055}
.FUNC N116(N101) = {N120 + N121*N101 + N122*N101**2 + N123*N101**3}
.PARAM N120 = {0.025348}
+ N121 = {-0.000181}
+ N122 = {2.5268E-06}
+ N123 = {0}
.FUNC N117(N101) = {N124 + N125*N101 + N126*N101**2}
.PARAM N124 = {2.0349}
+ N125 = {-0.008334}
+ N126 = {4.7926E-05}
.FUNC N104(N101,N102,N103) = {N51*N127*(N128(N101)*N112(N101,N102,N103))**N129(N101,N103)}
.FUNC N128(N101) = {(N130 - N131 * N101)}
.PARAM N127 = {1}
+ N130 = {0.42536}
+ N131 = {5.789E-05}
.FUNC N129(N101,N103) = {IF(N103 >0, N132 + N133*N101 + N134*N103, 1) }
.PARAM N132 = {3.9591}
+ N133 = {-0.0016545}
+ N134 = {-0.052323}
.FUNC N106(N101,N103) = {IF(N103 >0, N135(N101) + N136(N101) * N103, 1) }
.FUNC N135(N101) = {N137 + N138*N101 + N139*N101**2}
.PARAM N137 = {1.9696}
+ N138 = {-0.0063264}
+ N139 = {2.8301E-05}
.FUNC N136(N101) = {N140 + N141*N101 + N142*N101**2}
.PARAM N140 = {0.053064}
+ N141 = {0.00015372}
+ N142 = {-2.0501E-06}
.FUNC N143(N102) = {N102**N144}
.PARAM N144 = {0.076753}
.FUNC N145(N101,N102,N103) = {N100(N101,N102,N103)*N143(N102) + EXP(0.25*(N102-1425.0)) }
.PARAM N146 = {1}
.FUNC N147(N101,N102,N103) = {N102/(N105(N101,N102,N103))}
G3 N6 N4 VALUE = {N53 * N146 * IF(V(N6,N4) > 0.0,N145(V(TJ,0),V(N6,N4),V(N5,N4)), N147(V(TJ,0),V(N6,N4),V(N5,N4)))}
.ENDS
.SUBCKT Z33 N4 N6 N5 TJ PARAMS: N54 = 100
.FUNC N148(N101, N102, N103) = { LIMIT( N102-0.5, -100.0, -N149(N101,N103)) }
.FUNC N150(N103) = { N151 *( LIMIT(N103,-5,0) + N152 ) }
.PARAM N151 = { 0.3}
+ N152 = { 25 }
.FUNC N153(N101,N103) = { N154 + N155 * N101 + N156 * N150(N103) + N157 * N150(N103)**2 }
.PARAM N154 = { 8.7663 }
+ N155 = { 0.001 }
+ N156 = { 0.00514 }
+ N157 = { 0.001 }
.FUNC N149(N101,N103) = { N158 + N159 * N101 + N160 * N150(N103) + N161 * N150(N103)**2 + N162 * N150(N103)**3 }
.PARAM N158 = { 5.057 }
+ N159 = { 0.0001 }
+ N160 = { -0.02558 }
+ N161 = { -0.0509 }
+ N162 = { 0.001 }
.FUNC N163(N101,N103) = { N164 + N165 * N101 + N166 * N150(N103) }
.PARAM N164 = { 1.6854 }
+ N165 = { 0.001 }
+ N166 = { 0.0066829 }
.FUNC N167(N101, N102, N103) = { (- N153(N101,N103) * ( N168(N101, N102, N103) ) ** N163(N101,N103) ) }
.FUNC N168(N101, N102, N103) = IF( -N148(N101, N102, N103) - N149(N101,N103) > 0, -N148(N101, N102, N103) - N149(N101,N103) , 0)
G4 N6 N4 VALUE = { N54 * N167( V(TJ,0) , V(N6,N4), V(N5,N4) ) }
.ENDS
